US05589500
(a) Preparation of 8-Chlorooctoxybenzene
A two phase mixture of phenol (5 g, 53 mmol), 1,8-dichlorooctane (25 ml), tetrabutylammonium hydrogensulphate (0.3 g, 1 mmol), and sodium hydroxide solution (25 ml, 6M) was refluxed for 16 h. The organic layer was separated, washed with water (2×50 ml), dried (MgSO4), and concentrated in vacuo. The residues were columned (silica; eluant: dichloromethane/petrol 1:10) to give the title compound as a colourless mobile oil (9.20 g, 72%). bp 50° C. at 4.6 mm Hg. NMR (CDCl3) δ=1.27-1.52 (8H, m), 1.70-1.81 (4H, m), 3.53 (2H,t,J=6 Hz), 3.93 (2H,t,J=6 Hz), 6.83-6.93 (3H,m), 7.00-7.10 (2H,m). IR (liq, cm-1) 2992, 2937, 2858, 1601, 1587 MS(EI) m/e=240 (M+, 1%)

reactant | phenol | 53 mmol, 5 g | C1(=CC=CC=C1)O | C6H6O
reactant | 1,8-dichlorooctane | 25 ml | ClCCCCCCCCCl | C8H16Cl2
reactant | sodium hydroxide | 6M, 25 ml | [OH-].[Na+]
catalyst | tetrabutylammonium hydrogensulphate | 1 mmol, 0.3 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 8-Chlorooctoxybenzene | 9.20 g, 72% | ClCCCCCCCCOC1=CC=CC=C1 | C14H21ClO
